US08791255B2
The product is prepared according to the procedure described in example 5, using 130 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 113 mg of 4-aminobenzimidazole hydrochloride and 127 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 80 μl of pyridine and 2.0 ml of N,N-dimethylformamide. 112 mg of N-(1H-benzimidazol-4-yl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of an off-white powder, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 130 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 4-aminobenzimidazole hydrochloride | 113 mg | Cl.NC1=CC=CC=2N=CNC21
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 127 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 80 μl | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | N-(1H-benzimidazol-4-yl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 112 mg | N1C=NC2=C1C=CC=C2NC(CC=2NC(C=C(N2)N2CCOCC2)=O)=O | C17H18N6O3
